US07816557B2
Step C. 3-{4-[1-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester
To a mixture of 4-[1-(4-bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoic acid (940 mg, 2.09 mmol) in methylene chloride (21 mL) is added triethyl amine (0.88 mL, 6.28 mmol), DMAP (5.0 mg), 3-Amino-propionic acid methyl ester hydrochloride (438 mg, 3.14 mmol) and EDCI (1207 mg, 6.28 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, eluted with eluted with hexanes with a gradient from 0% of ethyl acetate to 100% of ethyl acetate giving the titled compound (670 mg).

reactant | 4-[1-(4-bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoic acid | 2.09 mmol, 940 mg | BrC1=C(C=C(OC(CC(C)C)C2=CC=C(C(=O)O)C=C2)C=C1)C1OCCCO1 | C22H25BrO5
reactant | triethyl amine | 6.28 mmol, 0.88 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Amino-propionic acid methyl ester hydrochloride | 3.14 mmol, 438 mg | Cl.COC(CCN)=O
reactant | EDCI | 6.28 mmol, 1207 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 21 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-{4-[1-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC(=C(C=C1)Br)C1OCCCO1)=O)=O | C26H32BrNO6
